US09062024B2
Synthesis of 1-methyl-5-(3-quinolinyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one (compound no. B4-9)
60% sodium hydride (62.8 mg, 1.57 mmol) was added to 25 mL of THF solution of 5-(3-quinolinyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one (0.30 g, 1.04 mmol) at 0° C., followed by stirring at the same temperature for 20 minutes. Moreover, methyl iodide (0.18 g, 1.25 mmol) was added to the resulting solution, followed by bringing back to room temperature and stirring for 12 hours. 20 mL of water was slowly added to the reaction solution to stop the reaction. The resulting solution was extracted twice with 50 mL of ethyl acetate, and the extracted organic layers were mixed, followed by washing with 50 mL of brine and drying with magnesium sulfate. After filtering and concentrating, the resulting residue was purified by silica gel column chromatography to obtain the target compound (0.17 g, yield: 53%), which was slightly yellow amorphous.

reactant | sodium hydride | 1.57 mmol, 62.8 mg | [H-].[Na+]
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | 5-(3-quinolinyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 1.04 mmol, 0.30 g | N1=CC(=CC2=CC=CC=C12)C1=NCC(NC2=C1C=CC=C2)=O | C18H13N3O
reactant | methyl iodide | 1.25 mmol, 0.18 g | CI | CH3I
solvent | water | 20 mL | O | H2O
product | 1-methyl-5-(3-quinolinyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.17 g, yield: 53% | CN1C(CN=C(C2=C1C=CC=C2)C=2C=NC1=CC=CC=C1C2)=O | C19H15N3O
